US06844362B2
Methyl 5-[(2R)-2-aminopropyl]-1H-indole-2-carboxylate
A solution of methyl 5-((2R)-2-{[(1R)-1-phenylethyl]amino}propyl)-1H-indole-2-carboxylate (Preparation 15, 9.34 g, 25.0 mmol) in ethanol (125 ml) was treated with ammonium formate (7.90 g, 125 mmol) and palladium hydroxide on carbon (2.81 g, 20% b/w palladium). The resulting suspension was purged with nitrogen and then heated to reflux for an hour. The reaction mixture was cooled to room temperature and filtered through arbocel to remove catalyst residues. The filtrate was reduced in vacuo and the residue was partitioned between 0.88 ammonia (100 ml) and dichloromethane (100 ml). The organic phase was separated and the aqueous extracted with more dichloromethane (100 ml). The combined organic extracts were dried (sodium sulphate) and the solvent removed in vacuo to give the title compound as a colourless oil (6.25 g, trace solvent remaining by 1H NMR).

reactant | methyl 5-((2R)-2-{[(1R)-1-phenylethyl]amino}propyl)-1H-indole-2-carboxylate | 25.0 mmol, 9.34 g | C1(=CC=CC=C1)[C@@H](C)N[C@@H](CC=1C=C2C=C(NC2=CC1)C(=O)OC)C | C21H24N2O2
reactant | ammonium formate | 125 mmol, 7.90 g | C(=O)[O-].[NH4+]
solvent | ethanol | 125 ml | C(C)O | C2H6O
catalyst | palladium hydroxide on carbon | 2.81 g | [OH-].[OH-].[Pd+2]
product | Methyl 5-[(2R)-2-aminopropyl]-1H-indole-2-carboxylate | 6.25 g | N[C@@H](CC=1C=C2C=C(NC2=CC1)C(=O)OC)C | C13H16N2O2
